US07786044B2
1. Preparation of 4-Chloro-2,5-difluorophenylamine
Tin (II) chloride dihydrate (15.5 g, 68.7 mmol) was dissolved in ethyl acetate (50 mL) and 1-chloro-2,5-difluoro-4-nitrobenzene (2.65 g, 13.7 mmol) was added dropwise. The reaction mixture was then stirred at 70° C. for 1 h. The reaction mixture was then carefully added to saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The organic phase was washed several more times with water, dried, filtered, concentrated and purified by flash chromatography on silica gel (hexane/diethyl ether) to give the title compound as a white solid (1.65 g, 73.9% yield): 1H NMR (CDCl3) δ 7.02 (dd, 1H), 6.57 (dd, 1H), 3.81 (br s, 2H).

reactant | Tin (II) chloride dihydrate | 68.7 mmol, 15.5 g | O.O.[Sn](Cl)Cl
reactant | 1-chloro-2,5-difluoro-4-nitrobenzene | 13.7 mmol, 2.65 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C6H2ClF2NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-2,5-difluorophenylamine | 1.65 g, 73.9% yield | ClC1=CC(=C(C=C1F)N)F | C6H4ClF2N
